US08304446B2
N-[1-[(3-{[(Aminocarbonyl)amino]methyl}phenyl)methyl]-4-(methyloxy)-1H-indazol-3-yl]-5-chloro-2-thiophenesulfonamide
To a suspension of N-[1-{[3-(aminomethyl)phenyl]methyl}-4-(methyloxy)-1H-indazol-3-yl]-5-chloro-2-thiophenesulfonamide hydrochloride ((for a preparation see Intermediate 4) 47 mg, 0.094 mmol) in ethyl acetate (0.4 mL) and triethylamine (0.013 mL, 0.094 mmol) was added acetic acid (1.5 mL). A solution of potassium cyanate (11 mg, 0.14 mmol) in water (0.2 mL) was added portionwise. The resultant clear solution was stirred at room temperature overnight. LCMS showed incomplete reaction and a higher percentage of product to SM. The reaction mixture was concentrated in vacuo and the resultant oil was divided into 2 equal portions. Each was dissolved in 1:1 MeOH:DMSO (1 mL) and purified by MDAP on Xbridge column using Acetonitrile Water with an ammonium carbonate modifier. The appropriate fractions were combined and concentrated in vacuo to give two respective batches, which were not clean, so these were combined and re-purified by MDAP to give the title compound (2.4 mg, 5%). LCMS (System A) RT=0.95 min, ES+ve m/z 506/508 (M+H)+.

reactant | N-[1-{[3-(aminomethyl)phenyl]methyl}-4-(methyloxy)-1H-indazol-3-yl]-5-chloro-2-thiophenesulfonamide hydrochloride | Cl.NCC=1C=C(C=CC1)CN1N=C(C2=C(C=CC=C12)OC)NS(=O)(=O)C=1SC(=CC1)Cl
reactant | triethylamine | 0.094 mmol, 0.013 mL | C(C)N(CC)CC | C6H15N
reactant | acetic acid | 1.5 mL | C(C)(=O)O | C2H4O2
reactant | potassium cyanate | 0.14 mmol, 11 mg | [O-]C#N.[K+]
solvent | EtOAc | 0.4 mL | CCOC(=O)C | C4H8O2
solvent | water | 0.2 mL | O | H2O
product | N-[1-[(3-{[(Aminocarbonyl)amino]methyl}phenyl)methyl]-4-(methyloxy)-1H-indazol-3-yl]-5-chloro-2-thiophenesulfonamide | 2.4 mg, 5% | NC(=O)NCC=1C=C(C=CC1)CN1N=C(C2=C(C=CC=C12)OC)NS(=O)(=O)C=1SC(=CC1)Cl | C21H20ClN5O4S2
